US04540699
2-[2-[4-(Dimethylaminomethyl)pyrid-2-ylmethylthio]ethylamino]-5-(1-n-butyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one
2-[4-(Dimethylaminomethyl)pyrid-2-ylmethylthio]ethylamine (0.90 g) and 2-nitroamino-5-(1-n-butyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one (1.12 g) were refluxed in ethanol (15 ml) for 72 hours. As the reaction had not gone to completion, the ethanol was replaced by pyridine (15 ml) and the mixture was refluxed for a further 6 hours.

reactant | 2-[4-(Dimethylaminomethyl)pyrid-2-ylmethylthio]ethylamine | 0.90 g | CN(C)CC1=CC(=NC=C1)CSCCN | C11H19N3S
reactant | 2-nitroamino-5-(1-n-butyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one | 1.12 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC(N(C=C1)CCCC)=O | C14H17N5O4
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-[2-[4-(Dimethylaminomethyl)pyrid-2-ylmethylthio]ethylamino]-5-(1-n-butyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one | CN(C)CC1=CC(=NC=C1)CSCCNC1=NC=C(C(N1)=O)CC1=CC(N(C=C1)CCCC)=O | C25H34N6O2S
